US04742052
A mixture of 1-(di-p-anisylmethyl)-3-ethenyl-4-p-methoxybenzyloxycarbonyl-2-azetidinone (10 g) and mercuric acetate (6.6 g) in terahydrofuran (40 ml) and water (20 ml) was stirred at room temperature for 5 hours. The reaction mixture was treated with 1N aqueous sodium hydroxide (40 ml) and then sodium borohydride (0.78 g) in 1N aqueous sodium hydroxide (2 ml) at ~0° C. The mixture was acidified with 2N hydrochloric acid, filtered to remove any insoluble materials. The filtrate was extracted with diethyl ether. The extract was washed successively with water and aqueous sodium bicarbonate, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was then purified by silica gel chromatography to give 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-p-methoxybenzyloxycarbonyl-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-ethenyl-4-p-methoxybenzyloxycarbonyl-2-azetidinone | 10 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1C(=O)OCC1=CC=C(C=C1)OC)C=C)=O)CC1=CC=C(C=C1)OC | C31H33NO6
reactant | sodium borohydride | 0.78 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | terahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
product | 1-(di-p-anisylmethyl)-3-(1-hydroxyethyl)-4-p-methoxybenzyloxycarbonyl-2-azetidinone | C(C1=CC=C(C=C1)OC)C(N1C(C(C1C(=O)OCC1=CC=C(C=C1)OC)C(C)O)=O)CC1=CC=C(C=C1)OC | C31H35NO7
